US07579341B2
29b) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-{4-[1-(1-ethoxycarbonyl-ethyl)-piperidin-4-yl]-piperazin-1-yl}-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A mixture of 140 mg (0.20 mmol) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-oxo-2-(4-piperidin-4-yl-piperazin-1-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 60.8 mg (0.44 mmol) K2CO3 and 29 μL (0.22 mmol) ethyl 2-bromopropionate in 1.8 mL DMF was shaken for 2 h at 50° C. The reaction mixture was purified by HPLC without working up; the fractions containing the product were combined and lyophilised.

reactant | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-oxo-2-(4-piperidin-4-yl-piperazin-1-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.20 mmol, 140 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCN(CC1)C1CCNCC1)=O)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C34H43ClF3N7O4
reactant | K2CO3 | 0.44 mmol, 60.8 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-bromopropionate | 0.22 mmol, 29 μL | BrC(C(=O)OCC)C | C5H9BrO2
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
product | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-{4-[1-(1-ethoxycarbonyl-ethyl)-piperidin-4-yl]-piperazin-1-yl}-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CCN(CC1)C(C)C(=O)OCC)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C39H51ClF3N7O6
